**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  Power over Ethernet High Power Transformer
* Matchcode:              WE-PoEH
* Library Type:           LTspice
* Version:                rev22a
* Created/modified by:    Toby      
* Date and Time:          2022-05-17
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************

.subckt	7491196212		1  3  4  5  9  6  10  7		
.param RxLkg=8.04ohm					
.param Leakage=0.02uh					
Rlkg	1	1a	{RxLkg}		
L_Lkg	1	1a	{Leakage}	Rser=0.01mohm	
Lpri1	1a	3	127.98uH	Rser=10mohm	
Laux1	4	5	392uH	Rser=300mohm	
Lsec1	9	6	578uH	Rser=80mohm	
Lsec2	10	7	578uH	Rser=100mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1					
.param Cprm1=121pf					
.param Rdmp1=51426.01ohm					
Cpri1	1	3	{Cprm1}	Rser=10mohm	
Rdmp1	1	3	{Rdmp1}		
Rg3	1	0	20meg		
Rg5	4	0	20meg		
Rg7	3	0	20meg		
Rg9	5	0	20meg		
Rg11	9	0	20meg		
Rg12	10	0	20meg		
Rg19	6	0	20meg		
Rg20	7	0	20meg		
.ends					

.subckt	7491196112		1  3  4  5  9  6  10  7		
.param RxLkg=307.15ohm					
.param Leakage=0.2uh					
Rlkg	1	1a	{RxLkg}		
L_Lkg	1	1a	{Leakage}	Rser=0.01mohm	
Lpri1	1a	3	99.8uH	Rser=40mohm	
Laux1	4	5	25uH	Rser=80mohm	
Lsec1	9	6	34.028uH	Rser=20mohm	
Lsec2	10	7	34.028uH	Rser=30mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1					
.param Cprm1=10.6pf					
.param Rdmp1=153573.62ohm					
Cpri1	1	3	{Cprm1}	Rser=10mohm	
Rdmp1	1	3	{Rdmp1}		
Rg3	1	0	20meg		
Rg5	4	0	20meg		
Rg7	3	0	20meg		
Rg9	5	0	20meg		
Rg11	9	0	20meg		
Rg12	10	0	20meg		
Rg19	6	0	20meg		
Rg20	7	0	20meg		
.ends					

.subckt	7491196501		1  3  4  5  9  6  10  7		
.param RxLkg=65.59ohm					
.param Leakage=0.1uh					
Rlkg	1	1a	{RxLkg}		
L_Lkg	1	1a	{Leakage}	Rser=0.01mohm	
Lpri1	1a	3	127.9uH	Rser=10mohm	
Laux1	4	5	392uH	Rser=300mohm	
Lsec1	9	6	98uH	Rser=20mohm	
Lsec2	10	7	98uH	Rser=30mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1					
.param Cprm1=45.4pf					
.param Rdmp1=83955.42ohm					
Cpri1	1	3	{Cprm1}	Rser=10mohm	
Rdmp1	1	3	{Rdmp1}		
Rg3	1	0	20meg		
Rg5	4	0	20meg		
Rg7	3	0	20meg		
Rg9	5	0	20meg		
Rg11	9	0	20meg		
Rg12	10	0	20meg		
Rg19	6	0	20meg		
Rg20	7	0	20meg		
.ends					

.subckt	749119650		1  3  4  5  9  6  10  7		
.param RxLkg=168.55ohm					
.param Leakage=0.1uh					
Rlkg	1	1a	{RxLkg}		
L_Lkg	1	1a	{Leakage}	Rser=0.01mohm	
Lpri1	1a	3	99.9uH	Rser=30mohm	
Laux1	4	5	25uH	Rser=90mohm	
Lsec1	9	6	6.25uH	Rser=7mohm	
Lsec2	10	7	6.25uH	Rser=7mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1					
.param Cprm1=8.8pf					
.param Rdmp1=168550.22ohm					
Cpri1	1	3	{Cprm1}	Rser=10mohm	
Rdmp1	1	3	{Rdmp1}		
Rg3	1	0	20meg		
Rg5	4	0	20meg		
Rg7	3	0	20meg		
Rg9	5	0	20meg		
Rg11	9	0	20meg		
Rg12	10	0	20meg		
Rg19	6	0	20meg		
Rg20	7	0	20meg		
.ends					

.subckt	7491196331		1  3  4  5  9  6  10  7		
.param RxLkg=454.75ohm					
.param Leakage=0.3uh					
Rlkg	1	1a	{RxLkg}		
L_Lkg	1	1a	{Leakage}	Rser=0.01mohm	
Lpri1	1a	3	127.7uH	Rser=50mohm	
Laux1	4	5	98uH	Rser=300mohm	
Lsec1	9	6	12.5uH	Rser=10mohm	
Lsec2	10	7	12.5uH	Rser=10mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1					
.param Cprm1=8.5pf					
.param Rdmp1=194028.78ohm					
Cpri1	1	3	{Cprm1}	Rser=10mohm	
Rdmp1	1	3	{Rdmp1}		
Rg3	1	0	20meg		
Rg5	4	0	20meg		
Rg7	3	0	20meg		
Rg9	5	0	20meg		
Rg11	9	0	20meg		
Rg12	10	0	20meg		
Rg19	6	0	20meg		
Rg20	7	0	20meg		
.ends					

.subckt	749119633		1  3  4  5  9  6  10  7		
.param RxLkg=617.54ohm					
.param Leakage=0.3uh					
Rlkg	1	1a	{RxLkg}		
L_Lkg	1	1a	{Leakage}	Rser=0.01mohm	
Lpri1	1a	3	99.7uH	Rser=20mohm	
Laux1	4	5	25uH	Rser=80mohm	
Lsec1	9	6	2.778uH	Rser=6mohm	
Lsec2	10	7	2.778uH	Rser=6mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1					
.param Cprm1=5.9pf					
.param Rdmp1=205846.58ohm					
Cpri1	1	3	{Cprm1}	Rser=10mohm	
Rdmp1	1	3	{Rdmp1}		
Rg3	1	0	20meg		
Rg5	4	0	20meg		
Rg7	3	0	20meg		
Rg9	5	0	20meg		
Rg11	9	0	20meg		
Rg12	10	0	20meg		
Rg19	6	0	20meg		
Rg20	7	0	20meg		
.ends					
